US09376422B2
Step 4: Synthesis of tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate
To a solution of methyl 3-amino-5-chloro-2-methylbenzoate (100 mg, 0.50 mmol) in 1,2-dichloroethane (2.5 ml) at room temperature and under nitrogen was added tert-butyl 4-oxopiperidine-1-carboxylate (200 mg, 1.0 mmol) followed by acetic acid (0.17 ml, 3.0 mmol). This solution was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (0.32 g, 1.5 mmol) at room temperature. The resulting mixture was stirred for 20 hours under nitrogen. Deionized water (5 ml) was added and the mixture was neutralised with solid NaHCO3. The phases were separated and the aqueous layer was extracted with EtOAc (2×5 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 99:1 Heptane:EtOAc to 7:3 Heptane:EtOAc) to give 131 mg (68%) of the title compound as a white solid. LC-MS 98%, m/z=405.4/406.9 (M+Na), 1H NMR (500 MHz, Chloroform-d) δ ppm 7.10 (1H, d, J=2.05 Hz), 6.70 (1H, d, J=1.89 Hz), 3.98-4.16 (2H, m), 3.88 (3H, s), 3.58-3.72 (1H, m), 3.37-3.52 (1H, m), 2.97 (2H, br. t, J=11.50, 11.50 Hz), 2.24 (3H, s), 2.06 (2H, br. d, J=10.60 Hz), 1.44-1.51 (9H, m), 1.32-1.44 (2H, m).

reactant | methyl 3-amino-5-chloro-2-methylbenzoate | 0.50 mmol, 100 mg | NC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C9H10ClNO2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1.0 mmol, 200 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | acetic acid | 3.0 mmol, 0.17 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.5 mmol, 0.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 2.5 ml | ClCCCl | C2H4Cl2
solvent | water | 5 ml | O | H2O
product | tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate | 131 mg, 68% | ClC=1C=C(C(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C)C(=O)OC | C19H27ClN2O4
